US05891893
U) 5-chloro 3-(2,4-dimethylphenyl) 1,2,4-oxadiazole
Under an inert atmosphere, 10.5 g of 2,4-dimethyl benzamidoxime are dissolved in 40 ml of anhydrous toluene; 6.5 ml of pyridine and 7.6 g of ethyl chloroformate are added.

reactant | 2,4-dimethyl benzamidoxime | 10.5 g | CC1=C(C(N)=NO)C=CC(=C1)C | C9H12N2O
reactant | pyridine | 6.5 ml | N1=CC=CC=C1 | C5H5N
reactant | ethyl chloroformate | 7.6 g | ClC(=O)OCC | C3H5ClO2
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 5-chloro 3-(2,4-dimethylphenyl) 1,2,4-oxadiazole | ClC1=NC(=NO1)C1=C(C=C(C=C1)C)C | C10H9ClN2O
